US06359145B1
NaH (60% in mineral oil, 60 mg) was added to a stirred solution of 4-imidazolecarboxamide (obtained in Preparation 1) (167 mg) in DMF (3.5 ml), and the reaction mixture was stirred for 1.5 hours at 55° C. Ethyl 2-bromovalerate (0.153 ml) was added to this mixture, and the reaction mixture was stirred for 3 hours at 55-60° C. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel (12 g) chromatography eluting with chloroform/methanol (25:1) to give ethyl 2-(4-carbamoyl-1-imidazolyl)valerate (150 mg).

reactant | NaH | 60 mg | [H-].[Na+]
reactant | 4-imidazolecarboxamide | 167 mg | N1C=NC(=C1)C(=O)N | C4H5N3O
reactant | Ethyl 2-bromovalerate | 0.153 ml | BrC(C(=O)OCC)CCC | C7H13BrO2
reactant | water | O | H2O
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(4-carbamoyl-1-imidazolyl)valerate | 150 mg | C(N)(=O)C=1N=CN(C1)C(C(=O)OCC)CCC | C11H17N3O3
